US07220744B2
(b) 2-Hydroxy-5-methylsulfamoyl-benzoic acid
To 63 mmol 5-chlorosulfonyl-2-hydroxy-benzoic acid in 120 ml dichloromethane at RT was added dropwise 317 mmol methylamine (8 M solution in ethanol) and the mixture was allowed to stir at RT for 1 h. The mixture was then concentrated in vacuo. The residue was suspended in 1 M aq NaOH solution and extracted twice with ether. The aqueous phase was acidified with 5 M aq HCl, saturated with NaCl, and extracted 3 times with THF. The combined THF extracts were washed twice with saturated aqueous NaCl solution and dried with Na2SO4. Evaporation in vacuo yielded the title compound. MS (m/e): 249.0 (M+NH4+, 100%), 231.9 (M+H+, 63%)

reactant | 5-chlorosulfonyl-2-hydroxy-benzoic acid | 63 mmol | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O | C7H5ClO5S
reactant | methylamine | 317 mmol, 8 M | CN | CH5N
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 2-Hydroxy-5-methylsulfamoyl-benzoic acid | OC1=C(C(=O)O)C=C(C=C1)S(NC)(=O)=O | C8H9NO5S
